US04975431
1-(4-Trifluoromethylphenyl)-1-(6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyrid-2-yl)methanol
To a solution of 1.6M n-butyl lithium in n-hexane (16.5 ml) in toluene (20 ml) at -20° C., under nitrogen, was added a solution of 2-bromo-6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyridine (6.0 g, 0.025 m) in toluene (30 ml). The reaction mixture was kept at -20° C. for 0.25 hours and then blown over into a solution of a,a,a-tri-fluoro-p-tolualdehyde (4.7 g) in toluene (30 ml) at -20° C. The solution was allowed to warm up to room temperature and water added. The organic phase was separated with 2N hydrochloric acid. This was basified with solid potassium carbonate and extracted with chloroform. The combined chloroform extracts were dried (MgSO4) and evaporated. The residue was recrystallised from n-hexane to give the title compound, (5.05 g) m.p. 131°-3° C.

reactant | n-butyl lithium | 1.6M | C(CCC)[Li]
reactant | 2-bromo-6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyridine | 6.0 g | BrC1=C(C=C2C(=N1)CCCCC2)C | C11H14BrN
reactant | a,a,a-tri-fluoro-p-tolualdehyde | 4.7 g | C1=CC(=CC=C1C=O)C(F)(F)F | C8H5F3O
reactant | water | O | H2O
solvent | n-hexane | 16.5 ml | CCCCCC | C6H14
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Trifluoromethylphenyl)-1-(6,7,8,9-tetrahydro-3-methyl-5H-cyclohepta[b]pyrid-2-yl)methanol | 5.05 g | FC(C1=CC=C(C=C1)C(O)C1=C(C=C2C(=N1)CCCCC2)C)(F)F | C19H20F3NO
